### PR TITLE
[Merged by Bors] - feat: convergence in probability implies convergence in distribution

### PR DESCRIPTION
**Pull request by RemyDegenne**
Prove that convergence in probability implies convergence in distribution, as well as Slutsky's theorem on the convergence of a product of random variables (since those two facts follow from the same lemma).

---

- [x] depends on: #30346
- [x] depends on: #30385
- [x] depends on: #30402
- [x] depends on: #30540
- [x] depends on: #30585
- [x] depends on: #30742

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 1]
```diff
@@ -55,6 +70,15 @@ lemma tendstoInDistribution_const [OpensMeasurableSpace E] (hZ : AEMeasurable Z
   forall_aemeasurable := fun _ ↦ by fun_prop
   tendsto := tendsto_const_nhds
 
+@[simp]
+lemma tendstoInDistribution_of_isEmpty [OpensMeasurableSpace E] [IsEmpty E] :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
lemma tendstoInDistribution_of_isEmpty [IsEmpty E] :
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 2]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
 end TendstoInDistribution
 
+variable [SeminormedAddCommGroup E] [SecondCountableTopology E] [BorelSpace E]
+
+/-- Let `X, Y` be two sequences of measurable functions such that `X n` converges in distribution
+to `Z`, and `Y n - X n` converges in probability to `0`.
+Then `Y n` converges in distribution to `Z`. -/
+lemma tendstoInDistribution_of_tendstoInMeasure_sub
+    [l.IsCountablyGenerated] (Y : ι → Ω → E) (Z : Ω → E)
+    (hXZ : TendstoInDistribution X l Z μ) (hXY : TendstoInMeasure μ (fun n ↦ Y n - X n) l 0)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: This does not break anything, and I think it is nicer?
```suggestion
    (hXZ : TendstoInDistribution X l Z μ) (hXY : TendstoInMeasure μ (Y - X) l 0)
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 3]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  -- We show convergence in distribution by verifying the convergence of integrals of any bounded
+  -- Lipschitz function `F`
+  suffices ∀ (F : E → ℝ) (hF_bounded : ∃ (C : ℝ), ∀ x y, dist (F x) (F y) ≤ C)
+      (hF_lip : ∃ L, LipschitzWith L F),
+      Tendsto (fun n ↦ ∫ ω, F ω ∂(μ.map (Y n))) l (𝓝 (∫ ω, F ω ∂(μ.map Z))) by
+    rwa [tendsto_iff_forall_lipschitz_integral_tendsto]
+  rintro F ⟨M, hF_bounded⟩ ⟨L, hF_lip⟩
+  have hF_cont : Continuous F := hF_lip.continuous
+  -- If `F` is 0-Lipschitz, then it is constant, and all integrals are equal to that constant
+  by_cases hL : L = 0
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: Nicer case split:
```suggestion
  obtain rfl | hL := eq_zero_or_pos L
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 4]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  · simp only [hL, LipschitzWith.zero_iff] at hF_lip
+    specialize hF_lip x₀
+    simp_rw [eq_comm (a := F x₀)] at hF_lip
+    simp only [hF_lip, integral_const, smul_eq_mul]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
    simp only [← hF_lip, integral_const, smul_eq_mul]
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 5]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    have h_prob n : IsProbabilityMeasure (μ.map (Y n)) := Measure.isProbabilityMeasure_map (hY n)
+    have : IsProbabilityMeasure (μ.map Z) := Measure.isProbabilityMeasure_map hZ
+    simp only [measureReal_univ_eq_one, one_mul]
+    exact tendsto_const_nhds
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
    simpa using tendsto_const_nhds
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 6]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  -- now `F` is `L`-Lipschitz with `L > 0`
+  replace hL : 0 < L := lt_of_le_of_ne L.2 (Ne.symm hL)
+  rw [Metric.tendsto_nhds]
+  simp_rw [Real.dist_eq]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
  simp_rw [Metric.tendsto_nhds, Real.dist_eq]
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 7]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  suffices ∀ ε > 0, ∀ᶠ n in l, |∫ ω, F ω ∂(μ.map (Y n)) - ∫ ω, F ω ∂(μ.map Z)| < L * ε by
+    intro ε hε
+    specialize this (ε / L) (by positivity)
+    convert this
+    field_simp
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
    convert this (ε / L) (by positivity)
    field_simp
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 8]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+  intro ε hε
+  -- We cut the difference into three pieces, two of which are small by the convergence assumptions
+  have h_le n : |∫ ω, F ω ∂(μ.map (Y n)) - ∫ ω, F ω ∂(μ.map Z)|
+      ≤ L * (ε / 2) + M * μ.real {ω | ε / 2 ≤ ‖Y n ω - X n ω‖}
+        + |∫ ω, F ω ∂(μ.map (X n)) - ∫ ω, F ω ∂(μ.map Z)| := by
+    refine (dist_triangle (∫ ω, F ω ∂(μ.map (Y n))) (∫ ω, F ω ∂(μ.map (X n)))
+      (∫ ω, F ω ∂(μ.map Z))).trans ?_
+    gcongr
+    swap; · rw [Real.dist_eq]
+    rw [Real.dist_eq]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
    refine (abs_sub_le (∫ ω, F ω ∂(μ.map (Y n))) (∫ ω, F ω ∂(μ.map (X n)))
      (∫ ω, F ω ∂(μ.map Z))).trans ?_
    gcongr
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 9]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+      specialize hF_bounded (X n a) x₀
+      rw [← sub_le_iff_le_add']
+      exact (abs_sub_abs_le_abs_sub (F (X n a)) (F x₀)).trans hF_bounded
+    have h_int_sub : Integrable (fun a ↦ ‖F (Y n a) - F (X n a)‖) μ := by
+      rw [integrable_norm_iff (by fun_prop)]
+      exact h_int_Y.sub h_int_X
+    -- Now we prove the inequality
+    rw [integral_map (by fun_prop) (by fun_prop), integral_map (by fun_prop) (by fun_prop),
+      ← integral_sub h_int_Y h_int_X]
+    rw [← Real.norm_eq_abs]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
      ← integral_sub h_int_Y h_int_X, ← Real.norm_eq_abs]
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 10]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    -- If it is smaller, we use the Lipschitz property of `F`
+    -- If not, we use the boundedness of `F`.
+    _ ≤ ∫ a in {x | ‖Y n x - X n x‖ < ε / 2}, L * (ε / 2) ∂μ
+        + ∫ a in {x | ε / 2 ≤ ‖Y n x - X n x‖}, M ∂μ := by
+      gcongr ?_ + ?_
+      · refine setIntegral_mono_on₀ h_int_sub.integrableOn integrableOn_const ?_ ?_
+        · exact nullMeasurableSet_lt (by fun_prop) (by fun_prop)
+        · intro x hx
+          simp only [Set.mem_setOf_eq] at hx
+          rw [← dist_eq_norm] at hx ⊢
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
        · exact fun x hx ↦ hF_lip.norm_sub_le_of_le hx.le
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 11]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+        + M * μ.real {ω | ε / 2 ≤ ‖Y n ω - X n ω‖} := by
+      simp only [integral_const, MeasurableSet.univ, measureReal_restrict_apply, Set.univ_inter,
+        smul_eq_mul]
+      ring
+    _ ≤ L * (ε / 2) + M * μ.real {ω | ε / 2 ≤ ‖Y n ω - X n ω‖} := by
+      rw [mul_assoc]
+      gcongr
+      conv_rhs => rw [← mul_one (ε / 2)]
+      gcongr
+      exact measureReal_le_one
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
      grw [measureReal_le_one, mul_one]
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 12]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+      Tendsto (fun n ↦ L * (ε / 2) + M * μ.real {ω | ε / 2 ≤ ‖Y n ω - X n ω‖}
+        + |∫ ω, F ω ∂(μ.map (X n)) - ∫ ω, F ω ∂(μ.map Z)|) l (𝓝 (L * ε / 2)) := by
+    suffices Tendsto (fun n ↦ L * (ε / 2) + M * μ.real {ω | ε / 2 ≤ ‖Y n ω - X n ω‖}
+        + |∫ ω, F ω ∂(μ.map (X n)) - ∫ ω, F ω ∂(μ.map Z)|) l (𝓝 (L * ε / 2 + M * 0 + 0)) by
+      simpa
+    refine (Tendsto.add ?_ (Tendsto.const_mul _ ?_)).add ?_
+    · rw [mul_div_assoc]
+      exact tendsto_const_nhds
+    · simp only [tendstoInMeasure_iff_norm, Pi.zero_apply, sub_zero] at hXY
+      have h_tendsto := hXY (ε / 2) (by positivity) -- the result, up to `μ.real` vs `μ`
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: Can you add a lemma saying that to prove `TendstoInMeasure` one can look at `µ.real` rather than `µ`?

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 13]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+      refine Tendsto.comp ?_ h_tendsto
+      exact ENNReal.tendsto_toReal (ENNReal.zero_ne_top)
+    · replace hXZ := hXZ.tendsto
+      simp_rw [tendsto_iff_forall_lipschitz_integral_tendsto] at hXZ
+      simpa [tendsto_iff_dist_tendsto_zero] using hXZ F ⟨M, hF_bounded⟩ ⟨L, hF_lip⟩
+  have h_lt : L * ε / 2 < L * ε := by
+    rw [mul_div_assoc]
+    gcongr
+    exact half_lt_self hε
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
  have h_lt : L * ε / 2 < L * ε := half_lt_self (by positivity)
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 14]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    (Y := fun n ω ↦ (X n ω, Y n ω)) (Z := fun ω ↦ (Z ω, c)) (μ := μ) (l := l) ?_ ?_ (by fun_prop)
+  · replace hXZ := hXZ.tendsto
+    refine ⟨by fun_prop, by fun_prop, ?_⟩
+    rw [tendsto_iff_forall_lipschitz_integral_tendsto] at hXZ ⊢
+    intro F ⟨M, hF_bounded⟩ ⟨L, hF_lip⟩
+    have hFc_lip : LipschitzWith L (fun x ↦ F (x, c)) := by
+      refine fun x y ↦ (hF_lip (x, c) (y, c)).trans ?_
+      simp [edist_eq_enorm_sub, enorm_eq_nnnorm]
+    have h_eq (f : Ω → E) (hf : AEMeasurable f μ) :
+        ∫ ω, F ω ∂μ.map (fun ω ↦ (f ω, c)) = ∫ ω, (fun x ↦ F (x, c)) ω ∂(μ.map f) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]:
```suggestion
        ∫ ω, F ω ∂μ.map (fun ω ↦ (f ω, c)) = ∫ ω, F (ω, c) ∂(μ.map f) := by
```

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 15]
```diff
@@ -81,4 +105,197 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    (hY : TendstoInMeasure μ (fun n ↦ Y n) l (fun _ ↦ c))
+    (hY_meas : ∀ i, AEMeasurable (Y i) μ) :
+    TendstoInDistribution (fun n ω ↦ (X n ω, Y n ω)) l (fun ω ↦ (Z ω, c)) μ := by
+  have hX : ∀ i, AEMeasurable (X i) μ := hXZ.forall_aemeasurable
+  have hZ : AEMeasurable Z μ := hXZ.aemeasurable_limit
+  refine tendstoInDistribution_of_tendstoInMeasure_sub (X := fun n ω ↦ (X n ω, c))
+    (Y := fun n ω ↦ (X n ω, Y n ω)) (Z := fun ω ↦ (Z ω, c)) (μ := μ) (l := l) ?_ ?_ (by fun_prop)
+  · replace hXZ := hXZ.tendsto
+    refine ⟨by fun_prop, by fun_prop, ?_⟩
+    rw [tendsto_iff_forall_lipschitz_integral_tendsto] at hXZ ⊢
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean]: I think it would be easier if you used [MeasureTheory.ProbabilityMeasure.tendsto_iff_forall_integral_tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/ProbabilityMeasure.html#MeasureTheory.ProbabilityMeasure.tendsto_iff_forall_integral_tendsto).

**Review by EtienneC30 — COMMENTED** [review]
Thanks! I think it would be nice to add that convergence in distribution to a constant is equivalent to convergence in measure to a constant, but maybe that's for another PR.

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean [hunk 16]
```diff
@@ -832,6 +832,10 @@ theorem tendsto_toReal_iff {ι} {fi : Filter ι} {f : ι → ℝ≥0∞} (hf : 
   lift x to ℝ≥0 using hx
   simp [tendsto_coe]
 
+theorem tendsto_toReal_zero_iff {ι} {fi : Filter ι} {f : ι → ℝ≥0∞} (hf : ∀ i, f i ≠ ∞) :
```
Comment (EtienneC30) [inline Mathlib/Topology/Instances/ENNReal/Lemmas.lean]:
```suggestion
theorem tendsto_toReal_zero_iff {ι} {fi : Filter ι} {f : ι → ℝ≥0∞}
    (hf : ∀ i, f i ≠ ∞ := by finiteness) :
```
Thanks!
maintainer delegate

File: Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean [hunk 17]
```diff
@@ -81,4 +105,177 @@ theorem TendstoInDistribution.continuous_comp {F : Type*} [OpensMeasurableSpace
...
+    · replace hXZ := hXZ.tendsto
+      simp_rw [tendsto_iff_forall_lipschitz_integral_tendsto] at hXZ
+      simpa [tendsto_iff_dist_tendsto_zero] using hXZ F ⟨M, hF_bounded⟩ ⟨L, hF_lip⟩
+  have h_lt : L * ε / 2 < L * ε := half_lt_self (by positivity)
+  filter_upwards [h_tendsto.eventually_lt_const h_lt] with n hn using (h_le n).trans_lt hn
+
+/-- Convergence in probability (`TendstoInMeasure`) implies convergence in distribution
+(`TendstoInDistribution`). -/
+lemma TendstoInMeasure.tendstoInDistribution [l.IsCountablyGenerated]
+    (h : TendstoInMeasure μ X l Z) (hX : ∀ i, AEMeasurable (X i) μ) (hZ : AEMeasurable Z μ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/ConvergenceInDistribution.lean:224]: Do you really need `hZ` here? I expect that `h` and `hX` should imply it?
